US08859765B2
To a solution of (1S,2R,4R)-1,2-bis((7,7-dimethyl-2-morpholinobicyclo[2.2.1]heptan-1-yl)methyl)disulfane (IIIa) (51 mg, 0.10 mmol) and THF (0.66 mL) was added dimethylzinc (3.3 mL, 4.0 mmol, 1.2 M in toluene) and phenylacetylene (0.44 mL, 4.0 mmol). After stirring at ambient temperature for two hours, the solution was cooled to 0° C. Neat benzaldehyde (0.10 mL, 1.0 mmol) was added in one portion and the reaction was stirred at 0° C. for 2 days. The reaction was quenched by addition of sat. aq. NH4Cl (3 mL) slowly and then diluted with DCM (20 mL) and 1 N aq. HCl (15 mL). After separation of layers, the aqueous solution was washed twice with DCM (10 mL). The DCM layers were combined, dried over solid Na2SO4, and concentrated to give a light yellow oil which was purified by silica gel column chromatography (1:5 ethyl acetate:n-heptane) to give (1S)-1,3-diphenyl-prop-2-yn-1-ol as a pale yellow oil (80 mg; 38%; 18.2% e.e.). The optical purity was determined by normal phase HPLC using a Chiralcel OD-H chiral column (eluted with isocratic 10:90 IPA/hexane, with 1.0 mL/minute flow rate; monitoring at 254 nm).

reactant | (1S,2R,4R)-1,2-bis((7,7-dimethyl-2-morpholinobicyclo[2.2.1]heptan-1-yl)methyl)disulfane | 0.10 mmol, 51 mg | CC1([C@@]2([C@@H](C[C@H]1CC2)N2CCOCC2)CSSCC21C(CC(CC2)C1(C)C)N1CCOCC1)C | C28H48N2O2S2
reactant | dimethylzinc | 4.0 mmol, 1.2 M, 3.3 mL | C[Zn]C
reactant | phenylacetylene | 4.0 mmol, 0.44 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | benzaldehyde | 1.0 mmol, 0.10 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 0.66 mL | C1CCOC1 | C4H8O
product | (1S)-1,3-diphenyl-prop-2-yn-1-ol | C1(=CC=CC=C1)[C@@H](C#CC1=CC=CC=C1)O | C15H12O
